US05665719
To a solution of methyl 2,4-dihydroxybenzoate (50 gm, 300 mmol) in acetone (1 L) was added potassium carbonate (150 gm) and benzyl bromide (37 mL, 1.1 eq). The mixture was refluxed for 6 hours and cooled to ambient temperature. The reaction was poured into ice cold aqueous 1M HCl (1 L) and the aqueous mixture was extracted with ether (3×500 mL). The combined organic extracts were dried over MgSO4 and filtered and the solvent was removed under reduced pressure. Methyl 2-hydroxy-4-benzyloxybenzoate was obtained by crystallization from EtOH in 60% yield.

reactant | methyl 2,4-dihydroxybenzoate | 300 mmol, 50 gm | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | potassium carbonate | 150 gm | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 37 mL, 1.1 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1M, 1 L | Cl | ClH
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | Methyl 2-hydroxy-4-benzyloxybenzoate | 60% yield | OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=CC=C1 | C15H14O4
